US06391874B1
(4-Benzyloxy-phenyl)-(6-cyanoquinazolin-4-yl)-amine
(4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine (1.2 g) in dioxane (10 ml) under N2 was treated with tributyltin cyanide (0.79 g) and catalytic quantities of 1,4-bis-(diphenylphosphino)-butane palladium (II) chloride and tetrakis (triphenylphosphine) palladium at reflux for 23 hours. The mixture was absorbed onto silica and chromatographed to give the title compound (0.65 g); δH [2H6]DMSO 10.01(1H,s), 9.14(1H,s), 8.63(1H,s), 8.15(1H,d), 7.87(1H,d), 7.73(2H,d), 7.45(5H,m), 7.10(2H,d), 5.13(2H,s); m/z (M+1)+353.

reactant | (4-Benzyloxy-phenyl)-(6-iodoquinazolin-4-yl)-amine | 1.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)I | C21H16IN3O
reactant | tributyltin cyanide | 0.79 g | C(CCC)[Sn](CCCC)(CCCC)C#N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 1,4-bis-(diphenylphosphino)-butane palladium (II) chloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
catalyst | tetrakis (triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (4-Benzyloxy-phenyl)-(6-cyanoquinazolin-4-yl)-amine | 0.65 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C#N | C22H16N4O
